USRE038921E1
A mixture of (4-(N,N-dimethylcarbamoylthio)-2-hydroxy-3 -propylphenoxy)ethanone (5.8 g), 1,6-dibromohexane (25 g), potassium iodide (1 g) and potassium carbonate (5.7 g) in acetone (40 ml) was heated with refluxing and stirring. Each of potassium carbonate (2.9 g) was added thereto after 9.5 hours, 20 hours and 30.5 hours, and the mixture was subjected to refluxing for total 41 hours. After cooled, inorganic materials were filtered off and the filtrate was concentrated under a reduced pressure. The resultant residue was purified through silica-gel column chromatography (eluting with benzene:hexane=1:1, then benzene:ethyl acetate=9: 1) to give (2-(6-bromohexyloxy)-4-(N,N-dimethylcarbamoylthio) -3-propylphenyl)ethanone (7.3 g, 79.7%) as brown oil. 1H-NMR (CDCl3) δ: 0.99 (3H, t, J=7 Hz, —CH2CH2CH3), 1.2-1.8 (10H, m, —CH2CH2CH3 and —OCH2CH2CH2CH2CH2CH2Br), 2.59 (3H, s, COCH3), 2.70 (2H, m, —CH2CH2CH3), 3.08 (6H, s, —N(CH3)2), 3.35 (2H, t, J=6 Hz, —CH2Br), 3.77 (2H, m, t, J=6 Hz, —OCH2(CH2)5Br), 7.30 (2H,

reactant | (4-(N,N-dimethylcarbamoylthio)-2-hydroxy-3 -propylphenoxy)ethanone | 5.8 g | CN(C(=O)SC1=C(C(=C(OC(C)=O)C=C1)O)CCC)C | C14H19NO4S
reactant | 1,6-dibromohexane | 25 g | BrCCCCCCBr | C6H12Br2
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | potassium carbonate | 5.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | (2-(6-bromohexyloxy)-4-(N,N-dimethylcarbamoylthio) -3-propylphenyl)ethanone | 7.3 g, 79.7% | BrCCCCCCOC1=C(C=CC(=C1CCC)SC(N(C)C)=O)C(C)=O | C20H30BrNO3S
